US06608070B1
* 2-bromoacetyl-1-methylimidazole hydrobromide was prepared from 2-acetyl-1-methylimidazole according to the procedure for preparing 2-bromoacetyl-4-methylpyridine hydrobromide described in step 2 of Example 31.

reactant | 2-acetyl-1-methylimidazole | C(C)(=O)C=1N(C=CN1)C | C6H8N2O
reactant | 2-bromoacetyl-4-methylpyridine hydrobromide | Br.BrCC(=O)C1=NC=CC(=C1)C
product | 2-bromoacetyl-1-methylimidazole hydrobromide | Br.BrCC(=O)C=1N(C=CN1)C | InChI=1S/C6H7BrN2O.BrH/c1-9-3-2-8-6(9)5(10)4-7;/h2-3H,4H2,1H3;1H
